US04052393
5 g. of 2-nitrophenylhydrazine are dissolved in 50 ml. of glacial acetic acid and 7.9 g. of ethoxymethyleneoxalacetic acid ethyl ester in 50 ml. of glacial acetic acid are slowly added dropwise. After the addition has been completed, the reaction mixture is refluxed for at least 3 hours. After cooling, the solvent is distilled off first under water vacuum and then under oil pump vacuum. The dark, oily residue is dissolved in 20 ml. of tetrahydrofuran, 10 ml. of ether are added and the mixture is kept in the refrigerator for 24 hours. The product, 1-(2-nitrophenyl)-1H-pyrazole-4,5-dicarboxylic acid, diethyl ester, is obtained in the form of large crystals, yield 11.5 g. The produce is recrystallized from cyclohexane and obtained as yellow crystals; yield 9.8 g., m.p. 45°-46°.

reactant | 2-nitrophenylhydrazine | [N+](=O)([O-])C1=C(C=CC=C1)NN | C6H7N3O2
reactant | ethoxymethyleneoxalacetic acid ethyl ester | C(C)OC(C(C(=O)C(=O)O)=COCC)=O | C9H12O6
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(2-nitrophenyl)-1H-pyrazole-4,5-dicarboxylic acid, diethyl ester | [N+](=O)([O-])C1=C(C=CC=C1)N1N=CC(=C1C(=O)OCC)C(=O)OCC | C15H15N3O6
